US07157487B2
In 1,4-dioxane (20 ml) was dissolved 1-methylisoquinoline (300 mg, 2.10 mmol). To the resulting solution was added selenium dioxide (323 mg, 2.91 mmol), followed by heating under reflux for 1.5 hours under a nitrogen gas stream. After cooling to room temperature, the reaction mixture was filtered through Celite. The filtrate was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (5:1, v/v) eluate fractions, 1-isoquinolinecarbaldehyde (252 mg, 77%) was obtained as a white solid.

reactant | 1-methylisoquinoline | 2.10 mmol, 300 mg | CC1=NC=CC2=CC=CC=C12 | C10H9N
reactant | selenium dioxide | 2.91 mmol, 323 mg | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1-isoquinolinecarbaldehyde | 252 mg, 77% | C1(=NC=CC2=CC=CC=C12)C=O | C10H7NO
